US04262004
To a stirred mixture of 360 parts of formic acid and 7.5 parts of 2,3-dihydroimidazo[2,1-b]benzothiazol-8-amine are added portionwise, during a 2 hours-period, 14.7 parts of sodium borohydride while nitrogen gas is introduced and the temperature is kept at about 30° C. Upon completion, stirring is continued first for 1 hour at about 60° C. and further overnight at room temperature. 200 Parts of water are added to the reaction mixture and the whole is alkalized with ammonium hydroxide at a temperature below 10° C. The product is extracted with warm trichloromethane. The extract is filtered over Hyflo and the filtrate is evaporated. The residue is boiled in 1,1'-oxybisethane. The product is filtered off (the filtrate is set aside) and dried, yielding 1 part of N-(2,3-dihydroimidazo[2,1-b]benzothiazol-8-yl)formamide; mp. 217° C.

reactant | formic acid | C(=O)O | CH2O2
reactant | 2,3-dihydroimidazo[2,1-b]benzothiazol-8-amine | N=1CCN2C1SC1=C2C=CC=C1N | C9H9N3S
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | N-(2,3-dihydroimidazo[2,1-b]benzothiazol-8-yl)formamide | N=1CCN2C1SC1=C2C=CC=C1NC=O | C10H9N3OS
